US08217063B2
Methyl 4-{(4E)-5-(5-fluoro-2-hydroxyphenyl)-3-[4-(methoxycarbonyl)benzyl]pent-4-en-1-yl}-benzoate
At 0° C., 21.65 ml (54.12 mmol) of a 2.5 M solution of n-butyllithium in hexane are slowly added dropwise to a solution of 10.84 g (23.2 mmol) of (5-fluoro-2-hydroxybenzyl)(triphenyl)-phosphonium bromide in 150 ml of THF, and the mixture is stirred at this temperature for 45 min. At this temperature, 6.85 g (19.33 mmol) of dimethyl 4,4′-(2-formylbutane-1,4-diyl)dibenzoate in 100 ml of THF are then metered in slowly. The reaction solution is stirred at 0° C. for 3 h, saturated ammonium chloride solution is then added, the mixture is diluted with water and ethyl acetate, the organic phase is separated off and the aqueous phase is re-extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulfate and filtered, and the solvent is removed to dryness. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 8.21 g (17.75 mmol, 76% of theory) of a yellowish oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (5-fluoro-2-hydroxybenzyl)(triphenyl)-phosphonium bromide | 23.2 mmol, 10.84 g | [Br-].FC=1C=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)O
reactant | dimethyl 4,4′-(2-formylbutane-1,4-diyl)dibenzoate | 19.33 mmol, 6.85 g | C(=O)C(CC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C21H22O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-{(4E)-5-(5-fluoro-2-hydroxyphenyl)-3-[4-(methoxycarbonyl)benzyl]pent-4-en-1-yl}-benzoate | FC=1C=CC(=C(C1)/C=C/C(CCC1=CC=C(C(=O)OC)C=C1)CC1=CC=C(C=C1)C(=O)OC)O | C28H27FO5
